US07358408B2
15.01 g of 4-Hydroxy-3,5-dimethyl phenyl dimethyl sulphonium chloride, 300 g water, and 23.35 g of potassium perfluorobutane sulfonate in 100 ml acetone were added to a flask. The resulting mixture was stirred for 2 hours at room temperature. The solution was then extracted with chloroform, washed with water, dried over sodium sulphate and filtered. The solution was concentrated and drowned into ether; a precipitate was formed, filtered and dried in the vacuum dryer at less than 40° C., yielding 4-hydroxy-3,5-dimethyl phenyl dimethyl sulphonium nonaflate, 23.9 g (71.9%). The solid product gave the following analytical results: 1H NMR (DMSO-d6), 2.35 (s, 6H, 2CH3); 3.5 (s, 6H, 2CH3); 7.80 (s, 2H, aromatic), mp 98° C.

reactant | 4-Hydroxy-3,5-dimethyl phenyl dimethyl sulphonium chloride | 15.01 g | [Cl-].OC1=C(C=C(C=C1C)[S+](C)C)C
reactant | water | 300 g | O | H2O
reactant | potassium perfluorobutane sulfonate | 23.35 g | FC(C(C(C(F)(F)F)(F)F)(F)F)(S(=O)(=O)[O-])F.[K+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-hydroxy-3,5-dimethyl phenyl dimethyl sulphonium nonaflate | S(=O)(=O)([O-])C(F)(F)C(F)(F)C(F)(F)C(F)(F)F.OC1=C(C=C(C=C1C)[S+](C)C)C | InChI=1S/C10H14OS.C4HF9O3S/c1-7-5-9(12(3)4)6-8(2)10(7)11;5-1(6,3(9,10)11)2(7,8)4(12,13)17(14,15)16/h5-6H,1-4H3;(H,14,15,16)
